US08748434B2
N-[6-Chloro-4-(4-fluoro-2-methoxy-phenyl)-pyridazin-3-yl]-3-methanesulfonyl-N-methyl-5-trifluoromethyl-benzamide
To a solution of [6-chloro-4-(4-fluoro-2-methoxy-phenyl)-pyridazin-3-yl]-methyl-amine (95 mg, 355 μmol) in dichloromethane (5 mL) was added 3-methanesulfonyl-5-trifluoromethyl-benzoic acid (95.2 mg, 355 mmol) and 2-bromo-1-ethylpyridinium tetrafluoroborate (117 mg, 426 μmol, CAS RN 878-23-9) and N-ethyldiisopropyl-amine (91.7 mg, 124 μL, 710 μmol). The reaction mixture was stirred at room temperature for 72 hours and then poured on 30 mL 10% aqueous bicarbonate solution and 30 mL dichloromethane and the layers were separated. The aqueous layer was extracted a second time with 30 mL dichloromethane. The organic layers were washed with 30 mL brine, dried over magnesium sulfate, filtered and concentrated under vacuum. The compound was purified by silica gel chromatography on a 20 g column using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of n-heptane:ethyl acetate (100:0 to 0:100). Colorless solid (63 mg, 34.3%). MS (ESI+): m/z=518.056 ([M+H]+).

reactant | [6-chloro-4-(4-fluoro-2-methoxy-phenyl)-pyridazin-3-yl]-methyl-amine | 355 μmol, 95 mg | ClC1=CC(=C(N=N1)NC)C1=C(C=C(C=C1)F)OC | C12H11ClFN3O
reactant | 3-methanesulfonyl-5-trifluoromethyl-benzoic acid | 355 mmol, 95.2 mg | CS(=O)(=O)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C9H7F3O4S
reactant | 2-bromo-1-ethylpyridinium tetrafluoroborate | 426 μmol, 117 mg | F[B-](F)(F)F.BrC1=[N+](C=CC=C1)CC
reactant | N-ethyldiisopropyl-amine | 710 μmol, 124 μL, 91.7 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | bicarbonate | 30 mL | C([O-])(O)=O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-[6-Chloro-4-(4-fluoro-2-methoxy-phenyl)-pyridazin-3-yl]-3-methanesulfonyl-N-methyl-5-trifluoromethyl-benzamide | ClC1=CC(=C(N=N1)N(C(C1=CC(=CC(=C1)C(F)(F)F)S(=O)(=O)C)=O)C)C1=C(C=C(C=C1)F)OC | C21H16ClF4N3O4S
